US06177443B1
4-(4-Chlorophenyl)-5-(4-methoxybenzyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine Hydrochloride
4-(4-Chlorophenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine (0.10 g, 0.38 mmol) was dissolved in N,N-dimethylformamide (0.5 ml) and triethylamine (110 μl, 0.76 mmol) and 4-methoxybenzyl chloride (51 μl, 0.38 mmol) were added and the resulting mixture was shaken at 1000 rpm for 3 days. Water (2 ml) was added and the mixture was extracted with ethyl acetate (2×1 ml). The combined organic extracts were concentrated in vacuo. The residue was purified by preparative thin layer chromatography eluting with a mixture of ethyl acetate and heptane (1:4) to afford the free base. This was dissolved in diethyl ether and 1N HCl in diethyl ether was added drop wise to complete precipitation to afford 52 mg (34%) of the title compound.

reactant | 4-(4-Chlorophenyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | 0.38 mmol, 0.10 g | ClC1=CC=C(C=C1)C1NCCC2=C1C=CS2 | C13H12ClNS
reactant | triethylamine | 0.76 mmol, 110 μl | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzyl chloride | 0.38 mmol, 51 μl | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | HCl | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Water | 2 ml | O | H2O
product | 4-(4-Chlorophenyl)-5-(4-methoxybenzyl)-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine Hydrochloride | 52 mg, 34% | Cl.ClC1=CC=C(C=C1)C1N(CCC2=C1C=CS2)CC2=CC=C(C=C2)OC | InChI=1S/C21H20ClNOS.ClH/c1-24-18-8-2-15(3-9-18)14-23-12-10-20-19(11-13-25-20)21(23)16-4-6-17(22)7-5-16;/h2-9,11,13,21H,10,12,14H2,1H3;1H
